US06013792
To a solution of (3R,10S)-2-(aminomethyl)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo [10.6.1.013,18 ]nonadeca-12 (19),13 (18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester (363 mg) and triethylamine (0.54 ml) in dry methylene chloride (20 ml) at 0° C. was added methanesulfonyl chloride (77 μml). The resulting mixture was stirred for 2 hours, allowing the mixture to rise to ambient temperature, then methylene chloride (100 ml) and 0.5N hydrochloric acid (50 ml) added, stirring vigorously. The aqueous layer was further extracted with methylene chloride (2×75 ml), then the combined organic layers washed with brine (100 ml). After drying the organic layer over MgSO4, it was filtered and evaporated to dryness. Purification of the residue by flash column chromatography (20-30% ethyl acetate/methylene chloride) gave (3R,10S)-2-(methylsulfonamidoaminomethyl)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester as a white solid (211 mg).

reactant | (3R,10S)-2-(aminomethyl)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo [10.6.1.013,18 ]nonadeca-12 (19),13 (18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester | 363 mg | C(C)(C)(C)OC(C([C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)CN)=O | C30H46N4O4
reactant | triethylamine | 0.54 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.5N, 50 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (3R,10S)-2-(methylsulfonamidoaminomethyl)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester | 211 mg | C(C)(C)(C)OC(C([C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)CNNS(=O)(=O)C)=O | C31H49N5O6S
